US07411072B2
3-(10,11-Dihydro-dibenzo[a,d]cyclohepten-5-ylidenemethyl)-phenol
Stir a molten mixture of 5-(3-methoxy-benzylidene)-10,11-dihydro-5H-dibenzo[a,d]cycloheptene (1.11 g, 3.55 mmol) and pyridine hydrochloride (10 g, 87 mmol) at 215° C. for 40 min. Cool the reaction mixture to 100° C., dilute with 1N HCl, and extract with ethyl acetate. Dry organics (MgSO4), filter, and concentrate to a brown oil containing the title compound. Purification via silica gel chromatography (1:6 ethyl acetate:hexanes) affords 940 mg (89%) of a tan oil. 1H NMR (CDCl3) δ 2.76-3.63 (br m, 4H), 4.59 (s, 1H), 6.45 (s, 1H), 6.64 (m, 2H), 6.75 (s, 1H), 6.99-7.52 (m, 9H); MS (ES) 299 (M+H), 297 (M−H). HPLC shows 97% purity.

reactant | 5-(3-methoxy-benzylidene)-10,11-dihydro-5H-dibenzo[a,d]cycloheptene | 3.55 mmol, 1.11 g | COC=1C=C(C=C2C3=C(CCC4=C2C=CC=C4)C=CC=C3)C=CC1 | C23H20O
reactant | pyridine hydrochloride | 87 mmol, 10 g | Cl.N1=CC=CC=C1
solvent | HCl | 1N | Cl | ClH
product | 3-(10,11-Dihydro-dibenzo[a,d]cyclohepten-5-ylidenemethyl)-phenol | 940 mg, 89% | C1=CC=CC=2C(C3=C(CCC21)C=CC=C3)=CC=3C=C(C=CC3)O | C22H18O
